US06451805B1
5-Amino-1-(2-fluorobenzyl)-3-(5-hydroxymethyl-2-furyl)-4-nitroso-pyrazole
10 g (34.8 mmol) of 5-amino-1-(2-fluorobenzyl)-3-(5-hydroxymethyl-2-furyl)-pyrazole are initially introduced in a mixture of 66 ml of ethanol and 26.7 ml of 5% strength aqueous hydrochloric acid, treated in the course of 5 minutes with 26.4 ml of a 15% strength ethanolic solution of ethyl nitrite and stirred at room temperature for 1 h. The deep violet reaction solution is added to aqueous potassium carbonate solution and extracted with ethyl acetate. After evaporating the organic phase in vacuo, 8 g of the residue are obtained, which can be immediately reacted further. (Rf=0.17, T1E1, SiO2).

reactant | 5-amino-1-(2-fluorobenzyl)-3-(5-hydroxymethyl-2-furyl)-pyrazole | 34.8 mmol, 10 g | NC1=CC(=NN1CC1=C(C=CC=C1)F)C=1OC(=CC1)CO | C15H14FN3O2
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl nitrite | N(=O)OCC | C2H5NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 66 ml | C(C)O | C2H6O
product | 5-Amino-1-(2-fluorobenzyl)-3-(5-hydroxymethyl-2-furyl)-4-nitroso-pyrazole | NC1=C(C(=NN1CC1=C(C=CC=C1)F)C=1OC(=CC1)CO)N=O | C15H13FN4O3
